US04254267
(A) 4-(2-Thienyl)-4-oxocrotonic acid
A two phase mixture of 18 grams glyoxylic acid (an 80% solution of glyoxylic acid in water) and 25.2 grams of 2-acetylthiophene is heated to 125° C. with stirring, and heating and stirring are maintained for about 5 hours. A clear solution forms at 115° C. and the water formed is removed by means of a Dean-Stark apparatus. On cooling the residue solidifies. It is dissolved in 100 cc ether and extracted with 150 cc of a 20% solution of Na2CO3. This aqueous solution is treated with activated charcoal, filtered and made strongly acid with 20% HCl. The solid is filtered and dissolved in about 1 L ether. The ether is dried over MgSO4 and removed to yield 19.1 g of the title compound, melting point 139°-142° C.

reactant | glyoxylic acid | 18 grams | C(C=O)(=O)O | C2H2O3
reactant | 2-acetylthiophene | 25.2 grams | C(C)(=O)C=1SC=CC1 | C6H6OS
solvent | water | O | H2O
product | 4-(2-Thienyl)-4-oxocrotonic acid | 19.1 g | S1C(=CC=C1)C(/C=C/C(=O)O)=O | C8H6O3S
